US03971799
Preparation of 3,5,6-trichloro-4-hydrazino picolinonitrile
To a reaction flask was added 400 milliliters of 95 percent ethanol and 24.2 grams (0.10 mole) of tetrachloropicolinonitrile. The mixture was heated to 45°C. with stirring and 3.7 grams (0.11 mole) of 95 percent hydrazine and 10.1 grams (0.10 mole) of triethylamine was added thereto. The mixture was heated under reflux for 1 hour and the reaction mixture thereafter cooled to 40°C. To this mixture was added 400 grams of an ice-water mixture and the solid 3,5,6-trichloro-4-hydrazinopicolinonitrile product which precipitated was recovered by filtration, water washed and dried. The product was recovered in a yield of 20.6 grams (87 percent of theoretical) melting at 178°-181°C.

reactant | tetrachloropicolinonitrile | 0.10 mole, 24.2 grams | ClC1=C(C(=C(C(=N1)C#N)Cl)Cl)Cl | C6Cl4N2
reactant | hydrazine | 0.11 mole, 3.7 grams | NN | H4N2
reactant | triethylamine | 0.10 mole, 10.1 grams | C(C)N(CC)CC | C6H15N
solvent | ethanol | 400 milliliters | C(C)O | C2H6O
product | 3,5,6-trichloro-4-hydrazino picolinonitrile | ClC=1C(=NC(=C(C1NN)Cl)Cl)C#N | C6H3Cl3N4
